US07125888B2
To the solution of 2-amino-4,4′-bipyridine (0.482 g, 2.815 mmol, 1 equiv) in dioxane (14 mL) was added bromophenylacetaldehyde (0.897 g, 4.50 mmol, 1.6 equiv) and NaHCO3 (0.473 g, 5.63 mmol, 2 equiv). The suspension was stirred at rt for 30 min and then heated to 80° C. for 6 h. The reaction mixture was poured into water and extracted with EtOAc. The combined organic layer was dried, concentrated and purified by flash column chromatography (5% MeOH in CH2Cl2 ) to give 3-phenyl-7-(4-pyridyl)imidazo[1,2-a]pyridine as a solid. 1H NMR (CDCl3) δ 8.72 (d, 2H, J=6.1), 8.45 (d, 1H, J=7.3), 8.00 (s, 1H), 7.80 (s, 1H), 7.61–7.55 (m, 6H), 7.48–7.44 (m, 1H), 7.14 (d, 1H, J=7.3); LRMS m/z (M+H) Calcd: 272.3, found: 272.2.

reactant | 2-amino-4,4′-bipyridine | 2.815 mmol, 0.482 g, 1 equiv | NC1=NC=CC(=C1)C1=CC=NC=C1 | C10H9N3
reactant | bromophenylacetaldehyde | 4.50 mmol, 0.897 g, 1.6 equiv | BrC(C=O)C1=CC=CC=C1 | C8H7BrO
reactant | NaHCO3 | 5.63 mmol, 0.473 g, 2 equiv | C(=O)(O)[O-].[Na+]
reactant | water | O | H2O
solvent | dioxane | 14 mL | O1CCOCC1 | C4H8O2
product | 3-phenyl-7-(4-pyridyl)imidazo[1,2-a]pyridine | C1(=CC=CC=C1)C1=CN=C2N1C=CC(=C2)C2=CC=NC=C2 | C18H13N3
